Name:  ___                Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___
 
Chief Complaint:
Treatment monitoring 
 
Major Surgical or Invasive Procedure:
None

 
History of Present Illness:
Mr. ___ is a ___ y/o M with h/o follicular lymphoma s/p
multiple treatments s/p BEAM and auto SCT ___ with relapse
admitted to ___ on ___ for monitoring on Week 3 protocol
___. 

Ms. ___ has follicular lymphoma on protocol ___ and was
recently admitted to ___ after a prior outpatient visit for
sore throat, hypotension, muscle aches, fever, and increased 
CRP.
She was supported with fluids, Tylenol for fever, ondansetron 
for
nausea, and monitored closely for potential CRS. The patient
developed a non-pruritic rash on her right arm on ___ that
resolved on ___. On ___ viral panel came back
positive for rhinovirus or enterovirus. ___ morning, the
patient began feeling much better with better energy, no fever,
no muscle aches, and a decreased level of CRP. Though this event
was initially reported as Grade 2 CRS, her symptoms were
attributed to be related to viral upper respiratory infection
instead, and it is not believed that she had true CRS.  She
received her week 3 trial
protocol ___ therapy with an anti-CD20 and anti-CD3 
bispecific
monoclonal antibody on ___ and was admitted for routine
monitoring per study protocol.   

On arrival to the floor, patient reports feeling fine with no
complaints.  All of her prior symptoms attributed to her viral
illness have resolved.  She denies fevers/chills, night sweats,
headache, vision changes, dizziness/lightheadedness,
weakness/numbnesss, shortness of breath, cough, hemoptysis, 
chest
pain, palpitations, abdominal pain, nausea/vomiting, diarrhea,
hematemesis, hematochezia/melena, dysuria, hematuria, and new
rashes.

 
Past Medical History:
 ___: Developed severe vomiting and abdominal pain. She 
initially attributed her symptoms to food poisoning or a GI 
infection, however her symptoms persisted for several days and 
she also palpated a lump near her umbilicus which concerned her. 

She was seen by her PCP who felt her abdomen to be distended. CT
imaging was obtained which revealed a large lobulated soft 
tissue
mass encasing the uterus and posterior bladder which appeared to
be arising from the right ovary; omental caking and peritonteal
studding with pelvic ascites; bilateral hydronephrosis from mass
effect; and a 1.8 cm pericardiophrenic soft tissue mass. The
imaging findings were initially concerning for an ovarian
carcinoma, though her CA-125 was only mildly elevated to 64. She
saw Gynecologic Oncology for further 
management. She was taken to the OR on ___ where diffuse 
mesenteric tumor nodules along the entire small bowel were
identified along with a 10 cm immobile mesenteric mass, 
confluent
peritoneal pelvic studding in a sheet-like manner, and 8 cm 
right
ovarian tumor. It was determined that optimal
cytoreduction/debulking would not be possible, so diagnostic
biopsies were obtained and further resection was not performed.
She had bilateral ureteral stents placed for her
hydronephrosis.
- Pathology of her biopsies revealed a cytologically low-grade 
follicular lymphoma with discordantly high proliferation index 
of 70% in follicle centers. FISH panel on the paraffin-embedded 
formalin fixed tissue revealed IGH/BCL2 rearrangement in 
addition to a GAIN of MYC.
- ___: C1D1 RCHOP14
- ___: C2D1 RCHOP14
- ___: C3D1 RCHOP14
- ___: C4D1 RCHOP14
- ___: CT Torso showing partial response with decreased size 
of all adenopathy, however still with significant disease burden
including for example small bowel mesenteric adenopathy 
measuring 3.8 x 5 cm, previously 6 x 8.6 cm.
- ___: Admit for ___ treatment with DA-EPOCH-R ___ cycle of
therapy).
- ___: CT of torso with decrease in pericardial and a 
diaphragmatic lymph node with stable mesenteric adenopathy.
- ___: Admit for ___ treatment with DA-EPOCH/R ___ cycle of
therapy).
- ___ cycle R-ICE
- ___ cycle R-ICE D1 ___
- ___: plerixafor stem cell collection for total 2.1 ___: Filgrastim/Sargramostim collection for total 2.27
x10^6. proceeding with auto-SCT
- ___: D0 auto BEAM. 
- ___: Hospital course for auto-SCT: course notable for 
mild tachycardia that had persisted in the second week of her
transplant thought to be related to fever and diarrhea which
ultimately improved, a skin rash likely related to chlorhexidine
exposure, neutropenic fever which resolved after empiric
antibiotics, prolonged time to platelet engraftment prompting
early discontinuation of acyclovir, and jaw pain amidst the end
of her carmustine infusion prompting early termination of the
infusion, though with only about 4% of the chemotherapy
remaining. All issues improved by the time of discharge.
- ___ CT torso: Interval decrease in size of a mesenteric
soft tissue mass abutting the small bowel, reflecting treatment
response.
- ___: C1D1 maintenance rituximab
- ___: C2D1 maintenance rituximab
- ___: C3D1 maintenance rituximab
- ___: C4D1 maintenance rituximab
- ___: C5D1 maintenance rituximab
- ___: C6D1 maintenance rituximab
- ___: C7D1 maintenance rituximab
- ___: C8D1 maintenance rituximab
- ___: CT torso: slight interval growth of a longstanding
submuscular left upper back soft tissue mass and some
subcentimeter mediastinal nodes; CT abdomen and pelvis revealing
slight interval enlargement of the conglomerate nodal mass in 
the lower mesentery measuring 1.8 x 5.1 cm, previously 1.3 x 5
cm.  
- ___: PET-CT: FDG avid conglomerate of mesenteric lymph
nodes in the lower abdomen measuring 1.7 x 2.5 cm with an SUV 
max of 6.9 and consistent with ___ 4.
- ___: Mesenteric node biopsy: follicular lymphoma, grade ___
of 3, low proliferation index

PAST MEDICAL HISTORY:
- Follicular lymphoma 
- HCV dx ___, treated
- Hypertension
- Anxiety
- s/p right partial nephrectomy in ___, pathology revealing
angiomyolipoma

 
Social History:
___
Family History:
No family history of cancer. Siblings with diabetes.

 
Physical Exam:
ADMISSION PHYSICAL EXAM:
========================
VS: Temp 97.7, BP 101/62, HR 70-71, RR 18, O2 sat 97% on RA 
GENERAL: Pleasant woman, in no distress, lying in bed
comfortably.
HEENT: no abnormality noted 
CARDIAC: RRR, short systolic murmur
LUNG: Appears in no respiratory distress, clear to auscultation
bilaterally, no crackles, wheezes, or rhonchi.
ABD: Soft, non-tender, non-distended, normal bowel sounds, no
hepatomegaly, no splenomegaly.
EXT: Warm, well perfused, no lower extremity edema, erythema or
tenderness.
NEURO: A&Ox3, good attention and linear thought, CN grossly
intact, moving all extremities 
SKIN: No significant rashes.

DISCHARGE PHYSICAL EXAM:
========================
VITALS: 98.6  126/71  88  18  100Ra 
GENERAL: Pleasant woman, in no distress, lying in bed
comfortably.
HEENT: no abnormality noted 
CARDIAC: RRR, short systolic murmur
LUNG: Appears in no respiratory distress, clear to auscultation
bilaterally, no crackles, wheezes, or rhonchi.
ABD: Soft, non-tender, non-distended, normal bowel sounds, no
hepatomegaly, no splenomegaly.
EXT: Warm, well perfused, no lower extremity edema, erythema or
tenderness.
NEURO: A&Ox3, good attention and linear thought, CN grossly
intact, moving all extremities 
SKIN: No significant rashes.
ACCESS: R POC 

 
Pertinent Results:
ADMISSION LABS 
==============
___ 08:30AM BLOOD WBC-5.2 RBC-3.23* Hgb-10.3* Hct-31.4* 
MCV-97 MCH-31.9 MCHC-32.8 RDW-13.3 RDWSD-47.0* Plt ___
___ 08:30AM BLOOD  WBC-5.2# Lymph-11* Abs ___ CD3%-71 
Abs CD3-408* CD4%-47 Abs CD4-267* CD8%-24 Abs CD8-138* 
CD4/CD8-1.93
___ 08:30AM BLOOD UreaN-9 Creat-0.8 Na-143 K-4.0 Cl-103 
HCO3-29 AnGap-11
___ 08:30AM BLOOD ALT-25 AST-25 AlkPhos-54 TotBili-0.3
___ 08:30AM BLOOD Phos-3.1 Mg-2.1 UricAcd-3.3

CRP TREND 
==========
___ 08:30AM BLOOD CRP-18.8*
___ 12:00PM BLOOD CRP-16.1*
___ 04:20PM BLOOD CRP-15.2*
___ 08:16PM BLOOD CRP-14.4*
___ 09:49AM BLOOD CRP-10.9*
___ 03:15PM BLOOD CRP-9.7*
___ 07:09PM BLOOD CRP-8.5*
___ 01:15PM BLOOD CRP-5.1*

DISCHARGE LABS
==============
___ 01:15PM BLOOD WBC-9.8 RBC-2.91* Hgb-9.1* Hct-28.6* 
MCV-98 MCH-31.3 MCHC-31.8* RDW-13.5 RDWSD-47.8* Plt ___
___ 01:15PM BLOOD Neuts-72.5* Lymphs-11.7* Monos-11.2 
Eos-2.4 Baso-0.5 Im ___ AbsNeut-7.10* AbsLymp-1.15* 
AbsMono-1.10* AbsEos-0.24 AbsBaso-0.05
___ 01:15PM BLOOD Plt ___
___ 01:15PM BLOOD Glucose-92 UreaN-19 Creat-0.7 Na-140 
K-3.3* Cl-102 HCO3-27 AnGap-11
___ 01:15PM BLOOD LD(LDH)-173
___ 01:15PM BLOOD Phos-2.2* Mg-2.0 UricAcd-3.3
 
Brief Hospital Course:
HOSPITAL COURSE
===============
Ms. ___ is a ___ woman with history of 
follicular lymphoma s/p BEAM and auto SCT with subsequent 
relapse and now on clinical trial ___ who presents for study 
monitoring.

ACTIVE ISSUES
=============
# Follicular Lymphoma: On clinical trial ___ for relapsed 
lymphoma. This was her third cycle. Completed with no 
complications, no signs or CRS or TLS. Continued acyclovir for 
infectious prophylaxis. Will return to clinic day after 
discharge to check in.

CHRONIC ISSUES
==============
# Anxiety/Depression: Continued home lexapro and lorazepam.

# Constipation: Continued colace/miralax.

Transitional Issues 
===================
[] Closely monitor for signs of CRS
[] Close f/u with Dr. ___
 
___ on Admission:
The Preadmission Medication list is accurate and complete.
1. Docusate Sodium 100 mg PO BID constipation 
2. Escitalopram Oxalate 10 mg PO DAILY 
3. Polyethylene Glycol 17 g PO DAILY:PRN constipation 
4. Acyclovir 400 mg PO Q12H 
5. LORazepam 0.5-1 mg PO Q6H:PRN 
nausea/vomiting/anxiety/insomnia 

 
Discharge Medications:
1.  Docusate Sodium 100 mg PO BID constipation  
2.  Acyclovir 400 mg PO Q12H  
3.  Escitalopram Oxalate 10 mg PO DAILY  
4.  LORazepam 0.5-1 mg PO Q6H:PRN 
nausea/vomiting/anxiety/insomnia  
5.  Polyethylene Glycol 17 g PO DAILY:PRN constipation  

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Follicular lymphoma 

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Mr. ___,

You were admitted to the hospital for your third round of 
immunotherapy. You had labs drawn and were monitored for any 
adverse symptoms, but everything went well with no 
complications. You will follow up with your primary oncologist 
to discuss next steps in therapy.

It was a privilege to care for you in the hospital, and we wish 
you all the best.

Sincerely,

Your ___ Health Team
 
Followup Instructions:
___